US07838543B2
N-{2-[Methyl-(1-methyl-piperidin-4-yl)-amino]-benzooxazol-5-yl}-3-phenoxy-benzamide
Add oxalyl chloride (0.20 mL, 2.30 mmol) and 3 drops of DMF to a stirring suspension of 3-phenoxy-benzoic acid (0.247 g, 1.15 mmol) in CH2Cl2 (5.0 mL). Stir the reaction mixture at room temperature for 2 h. Concentrate the mixture in vacuo, add n-hexane, re-concentrate, and re-dissolve in CH2Cl2. Add the resultant 3-phenoxy-benzoyl chloride solution to a mixture of rac-N2-methyl-N2-(1-methyl-piperidin-4-yl)-benzooxazole-2,5-diamine (0.200 g, 0.768 mmol) and pyridine (0.06 mL) in CH2Cl2 (5.0 mL). Shake the reaction mixture overnight at room temperature. Wash the mixture with saturated NaHCO3 (aqueous) (3×25 mL), dry the organic phase over Na2SO4, filter, and concentrate the mixture in vacuo. Subject the residue to silica gel flash column chromatography (5×4 g columns, eluting with 5% 2N NH3 in MeOH/CH2Cl2) to yield the desired product as a white solid (0.163 g, 46%). mass spectrum (m/e): 457.0 (M+1), 455.0 (M−1). 1H NMR (400 MHz, CD3OD): δ 7.72-7.67 (m, 2H), 7.60-7.57 (m, 1H), 7.51 (t, J=7.9 Hz, 1H), 7.44-7.38 (m, 2H), 7.35-7.28 (m, 2H), 7.22-7.15 (m, 2H), 7.09-7.05 (m, 2H), 4.18-4.09 (m, 1H), 3.12 (s, 3H), 3.06-3.00 (m, 2H), 2.35 (s, 3H), 2.24 (dt, J=12.4, 2.4 Hz, 2H), 2.03-1.92 (m, 2H), 1.87-1.80 (m, 2H).

reactant | oxalyl chloride | 2.30 mmol, 0.20 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-phenoxy-benzoic acid | 1.15 mmol, 0.247 g | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O3
reactant | rac-N2-methyl-N2-(1-methyl-piperidin-4-yl)-benzooxazole-2,5-diamine | 0.768 mmol, 0.200 g | CN(C=1OC2=C(N1)C=C(C=C2)N)C2CCN(CC2)C | C14H20N4O
reactant | pyridine | 0.06 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[Methyl-(1-methyl-piperidin-4-yl)-amino]-benzooxazol-5-yl}-3-phenoxy-benzamide | 0.163 g, 46% | CN(C=1OC2=C(N1)C=C(C=C2)NC(C2=CC(=CC=C2)OC2=CC=CC=C2)=O)C2CCN(CC2)C | C27H28N4O3
